US07034039B2
Ethyl 2-(3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl)-4-methyl-1,3-thiazole-5-carboxylate (0.14 g, 0.5 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (5 ml). The solution was stirred at room temperature for 1 h. The reaction mixture was concentrated under reduced pressure, and the precipitated crystals were recrystallized from methanol-diisopropyl ether to give ethyl 2-[3-(aminomethyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl]-4-methyl-1,3-thiazole-5-carboxylate hydrochloride (0.11 g, 91.7%) as crystals.

reactant | Ethyl 2-(3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl)-4-methyl-1,3-thiazole-5-carboxylate | 0.5 mmol, 0.14 g | C(C)(C)(C)OC(=O)NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C=1SC(=C(N1)C)C(=O)OCC)=O)CC(C)C | C32H37N3O5S
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 2-[3-(aminomethyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl]-4-methyl-1,3-thiazole-5-carboxylate hydrochloride | 0.11 g, 91.7% | Cl.NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C=1SC(=C(N1)C)C(=O)OCC)=O)CC(C)C | InChI=1S/C27H29N3O3S.ClH/c1-5-33-27(32)24-17(4)29-25(34-24)19-11-12-20-21(13-19)23(18-9-7-6-8-10-18)22(14-28)30(26(20)31)15-16(2)3;/h6-13,16H,5,14-15,28H2,1-4H3;1H
